US08357679B2
B: Methyl 4-amino-2-bromo-5-fluorobenzoate
A suspension of the methyl 4-(benzylamino)-2-bromo-5-fluorobenzoate (2.4 g, 7.10 mmol) in acetic acid was treated with 10% palladium on charcoal (250 mg) and stirred at room temperature under 2 bar hydrogen for 18 hours. The reaction mixture was then diluted with methanol, filtered through celite and evaporated to low volume. The residue was suspended in water (50 mL) and basified with 5% sodium carbonate solution then was extracted with ethyl acetate (2×). The combined organic phases were dried (sodium sulfate) and evaporated to a sandy solid. This crude solid was dissolved in the methanol and passed down an SCX cartridge. Evaporation of the methanol eluents gave the title compound (1.3 g).

reactant | methyl 4-(benzylamino)-2-bromo-5-fluorobenzoate | 7.10 mmol, 2.4 g | C(C1=CC=CC=C1)NC1=CC(=C(C(=O)OC)C=C1F)Br | C15H13BrFNO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | Methyl 4-amino-2-bromo-5-fluorobenzoate | 1.3 g | NC1=CC(=C(C(=O)OC)C=C1F)Br | C8H7BrFNO2
